US06184225B2
2M Aqueous sodium hydroxide solution (760 μl, 1.5 mmol) was added to a solution of 4-(2-fluoro-5-methoxycarbonyloxy4-methylanilino)-7-(2-methoxyethylamino)quinazoline (304 mg, 0.76 mmol) in methanol (8 ml) at 5° C. and the mixture then stirred for 30 minutes at ambient temperature. The mixture was diluted with water and adjusted to pH6 with 2M hydrochloric acid. The precipitated solid was collected by filtration and then suspended in methylene chloride/methanol. A 5M solution of hydrogen chloride in isopropanol (0.4 ml) was added and the volatiles were removed from the resulting solution by evaporation. The residue was triturated with ether, the solid product collected by filtration, washed with ether and dried under vacuum to give 4-(2-fluoro-5-hydroxy-4-methylanilino)-7-(2-methoxyethylamino)quinazoline hydrochloride (260 mg, 90%) as yellow solid.

reactant | sodium hydroxide | 1.5 mmol, 2M, 760 μl | [OH-].[Na+]
reactant | 4-(2-fluoro-5-methoxycarbonyloxy4-methylanilino)-7-(2-methoxyethylamino)quinazoline | 0.76 mmol, 304 mg | FC1=C(NC2=NC=NC3=CC(=CC=C23)NCCOC)C=C(C(=C1)C)OC(=O)OC | C20H21FN4O4
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | methanol | 8 ml | CO | CH4O
solvent | water | O | H2O
product | 4-(2-fluoro-5-hydroxy-4-methylanilino)-7-(2-methoxyethylamino)quinazoline hydrochloride | 260 mg, 90% | Cl.FC1=C(NC2=NC=NC3=CC(=CC=C23)NCCOC)C=C(C(=C1)C)O | InChI=1S/C18H19FN4O2.ClH/c1-11-7-14(19)16(9-17(11)24)23-18-13-4-3-12(20-5-6-25-2)8-15(13)21-10-22-18;/h3-4,7-10,20,24H,5-6H2,1-2H3,(H,21,22,23);1H
